US09359375B2
The mixture of (R)-2-(6-chloro-5-cyano-3-fluoropyridin-2-ylamino)butanamide (235 mg, 0.92 mmol), 6-aminoquinoline (288 mg, 2.0 mmol), Pd(OAc)2 (44 mg, 0.22 mmol), racemic BINAP (136 mg, 0.22 mmol) and fine-powder cesium carbonate (1.0 g, 3.1 mmol) in 30 mL dioxane was degassed using argon stream for 3 min. It was then stirred at 100° C. in argon atmosphere for overnight. The mixture was cooled to RT, concentrated in vacuo, taken into 200 mL EtOAc and 50 mL water. The organic phase was separated and washed with brine. It was dried, concentrated and purified using silica flash column (35% EtOAc in DCM) to give (R)-2-(5-cyano-3-fluoro-6-(quinolin-6-ylamino)pyridin-2-ylamino)butanamide. It was dissolved in 4 mL DMSO. To it were added 2 mL 50% H2O2 and then powder potassium carbonate (91 mg, 0.66 mmol). The mixture was stirred at RT for 30 min. It was diluted with 4 mL 1N HCl. The mixture was subjected to reverse prep HPLC to isolate the title compound as HCl salt (210 mg). UV: 268, 297, 330 nm. M+H found for C19H19FN6O2: 383.4. NMR (CD3OD): 9.12 (1H, d, J=8.8 Hz), 8.90 (1H, s), 8.82 (1H, d, J=5.2 Hz), 8.03 (1H, d, J=8.8 Hz), 7.92 (1H, d, J=10.0 Hz), 7.85-7.82 (2H, m), 4.39 (1H, m), 2.09 (2H, m), 1.16 (3H, t, J=7.6 Hz) ppm.

reactant | (R)-2-(6-chloro-5-cyano-3-fluoropyridin-2-ylamino)butanamide | 0.92 mmol, 235 mg | ClC1=C(C=C(C(=N1)N[C@@H](C(=O)N)CC)F)C#N | C10H10ClFN4O
reactant | 6-aminoquinoline | 2.0 mmol, 288 mg | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
reactant | BINAP | 0.22 mmol, 136 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 3.1 mmol, 1.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.22 mmol, 44 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (R)-2-(5-cyano-3-fluoro-6-(quinolin-6-ylamino)pyridin-2-ylamino)butanamide | C(#N)C=1C=C(C(=NC1NC=1C=C2C=CC=NC2=CC1)N[C@@H](C(=O)N)CC)F | C19H17FN6O
